US05811459
A mixture of 2-benzyloxy-5-bromobenzaldehyde (14.55 g) and sodium borohydride (2.6 g) in ethanol (250 ml) was stirred under argon for 1 hour. The solvent was evaporated, the residue dissolved in ethyl acetate and added dropwise to 0.1M hydrochloric acid solution (200 ml) at 0° C. The organic solution was washed with saturated aqueous sodium hydrogen carbonate (100 ml) and brine (100 ml), dried (sodium sulphate), filtered and evaporated to give 2-benzyloxy-5-bromobenzyl alcohol (14.85 g) as an oil. To a solution of 2-benzyloxy-5-bromobenzyl alcohol (14.75 g) in diethyl ether (150 ml) was added dropwise, at 0° C., to a solution of phosphorus tribromide (13.68 g) in diethyl ether (40 ml). The mixture was warmed to ambient temperature, diluted with diethyl ether (200 ml) and filtered through a pad of silica gel (200 g) washing with 1 litre of diethyl ether. The combined organic solution was washed with saturated aqueous sodium hydrogen carbonate (150 ml) and brine (150 ml), dried (sodium sulphate), filtered and evaporated to give 2-benzyloxy-5-bromobenzyl bromide (15.2 g).

reactant | 2-benzyloxy-5-bromobenzyl alcohol | 14.75 g | C(C1=CC=CC=C1)OC1=C(CO)C=C(C=C1)Br | C14H13BrO2
reactant | phosphorus tribromide | 13.68 g | P(Br)(Br)Br | Br3P
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-benzyloxy-5-bromobenzyl bromide | 15.2 g | C(C1=CC=CC=C1)OC1=C(CBr)C=C(C=C1)Br | C14H12Br2O
